US05736534
4-(6-Bromo-5-fluoro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride salt
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 68% yield from 5-fluoro-6-bromo-indoline (1.1 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 258° C. (dec); LC-MS: 404, 406 (MH+); anal. RP18-HPLC RT: 5.06 min.).

reactant | 5-fluoro-6-bromo-indoline | 1.1 eq. | FC=1C=C2CCNC2=CC1Br | C8H7BrFN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Bromo-5-fluoro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride salt | 68% yield | Cl.BrC1=C(C=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC)F | InChI=1S/C18H15BrFN3O2.ClH/c1-24-16-6-11-14(8-17(16)25-2)21-9-22-18(11)23-4-3-10-5-13(20)12(19)7-15(10)23;/h5-9H,3-4H2,1-2H3;1H
